US06110962
[4-(Benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxymethyl]-phosphonic acid
Iodotrimethylsilane (0.78 mL, 5.49 mmol) was added to a 0-5° C., stirred solution of [4-(benzo[b]naphtho [2,3-d]thiophen-11-yl)-phenoxymethyl]-phosphonic acid diethyl ester (0.871 g, 1.83 mmol) in methylene chloride (24 mL) under a try N2 atmosphere over a period of 10 min. After 1 h, the solution was quenched with water (0.6 mL), 10% aqueous sodium carbonate (100 mL) was added and mixture was washed with methylene chloride. The aqueous layer was acidified with 10% aqueous HCl. The solid was filtered and recrystallized from methanol (75 mL) to provide the title compound as a white solid (0.65 g, 85%): mp 240-242° C.: MS (EI): [M+], 420; Anal. Calc. for C23H17O4PS: C, 65.17, H, 4.08, N, 0.00. Found: C, 63.95, H, 3.89, N, 0.41.

reactant | Iodotrimethylsilane | 5.49 mmol, 0.78 mL | I[Si](C)(C)C | C3H9ISi
reactant | [4-(benzo[b]naphtho [2,3-d]thiophen-11-yl)-phenoxymethyl]-phosphonic acid diethyl ester | 1.83 mmol, 0.871 g | C(C)OP(OCC)(=O)COC1=CC=C(C=C1)C1=C2C=CC=CC2=CC2=C1C1=C(S2)C=CC=C1 | C27H25O4PS
solvent | methylene chloride | 24 mL | C(Cl)Cl | CH2Cl2
product | [4-(Benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxymethyl]-phosphonic acid | 0.65 g, 85% | C1=CC=CC=2SC3=C(C21)C(=C2C=CC=CC2=C3)C3=CC=C(OCP(O)(O)=O)C=C3 | C23H17O4PS
